US08314100B2
c) 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate (27 mg, 0.10 mmol) and 1-phenylpiperazine (24 mg, 0.15 mmol) were dissolved in tetrahydrofuran (2 ml) at room temperature and thereto DBU (23 mg, 0.15 mmol) was added. The resulting mixture was stirred at 70° C. for 7 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 36 mg of the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 3.22-3.30 (m, 4H), 3.75-3.78 (m, 3H), 4.08-4.13 (m, 4H), 6.89-6.96 (m, 3H), 7.19-7.44 (m, 5H), 7.64-7.80 (m, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | 0.10 mmol, 27 mg | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-phenylpiperazine | 0.15 mmol, 24 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 0.15 mmol, 23 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-phenylpiperazine | 36 mg, 91% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C20H20ClN5O2
